US09227962B2
To a solution of 2-oxoindoline-5-carbohydrazide (200 mg, 1.05 mmol) in n-BuOH/DMF (6 ml/2 ml) was added benzonitrile (324 mg, 3.14 mmol) and potassium carbonate (29 mg, 0.21 mmol). The mixture was heated at 150° C. for 3 hours under microwave irradiation. CHCl3/MeOH (20 ml/1 ml) was added to the mixture and insoluble solid was removed by filtration. The filtrate was concentrated. H2O was added to the residue and extracted with CHCl3. The organic layer was dried over Na2SO4 and concentrated in vacuo. Purification by column chromatography (CHCl3/MeOH) gave 5-(3-phenyl-1H-1,2,4-triazol-5-yl)indolin-2-one (15 mg).

reactant | 2-oxoindoline-5-carbohydrazide | 1.05 mmol, 200 mg | O=C1NC2=CC=C(C=C2C1)C(=O)NN | C9H9N3O2
reactant | benzonitrile | 3.14 mmol, 324 mg | C(C1=CC=CC=C1)#N | C7H5N
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CHCl3 MeOH | 20 ml | C(Cl)(Cl)Cl.CO
solvent | n-BuOH DMF | 6 ml | CCCCO.CN(C)C=O
product | 5-(3-phenyl-1H-1,2,4-triazol-5-yl)indolin-2-one | 15 mg | C1(=CC=CC=C1)C1=NNC(=N1)C=1C=C2CC(NC2=CC1)=O | C16H12N4O
